US03975443
A mixture of 1-aminomethylcyclohexyldimethylamine (1.0 g), 4-fluorobenzoyl chloride (2 ml) and pyridine (10 ml) was allowed to stand at room temperature for 1 hr. The crystalline material produced was filtered and recrystallised several times from ethanol/ether to give colourless needles of 1-(4-fluorobenzamidomethyl)-cyclohexyl dimethylamine hydrochloride m.p. 238°-239° .

reactant | 1-aminomethylcyclohexyldimethylamine | 1.0 g | NCC1(CCCCC1)N(C)C | C9H20N2
reactant | 4-fluorobenzoyl chloride | 2 ml | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-fluorobenzamidomethyl)-cyclohexyl dimethylamine hydrochloride | Cl.FC1=CC=C(C(=O)NCC2(CCCCC2)N(C)C)C=C1 | InChI=1S/C16H23FN2O.ClH/c1-19(2)16(10-4-3-5-11-16)12-18-15(20)13-6-8-14(17)9-7-13;/h6-9H,3-5,10-12H2,1-2H3,(H,18,20);1H
